US07964623B2
3,4-Epoxy-7-methoxymethoxy-2,2-dimethyl-6-nitro-3,4-dihydro-2H-1-benzopyrane
To a solution of 3-bromo-7-methoxymethoxy-2,2-dimethyl-6-nitro-1-benzopyran-4-ol (550 mg, 1.52 mmol) in dioxane (5.5 mL), 1 mol/L sodium hydroxide aqueous solution (1.82 mL, 1.82 mmol) was added at room temperature, and the resulting mixture was stirred for 2 hours. Upon the completion of the reaction, water was added thereto, the resulting solution was extracted with ethyl acetate, washed with saturated sodium thiosulfate aqueous solution and then with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting mixture was purified by silica gel column (hexane/ethyl acetate=4/1) and the aimed product was obtained (yield: 78%).

reactant | 3-bromo-7-methoxymethoxy-2,2-dimethyl-6-nitro-1-benzopyran-4-ol | 1.52 mmol, 550 mg | BrC=1C(OC2=C(C1O)C=C(C(=C2)OCOC)[N+](=O)[O-])(C)C | C13H14BrNO6
reactant | sodium hydroxide | 1.82 mmol, 1 mol/L, 1.82 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | dioxane | 5.5 mL | O1CCOCC1 | C4H8O2
product | 3,4-Epoxy-7-methoxymethoxy-2,2-dimethyl-6-nitro-3,4-dihydro-2H-1-benzopyrane | yield: 78% | O1C2C(OC3=C(C21)C=C(C(=C3)OCOC)[N+](=O)[O-])(C)C | C13H15NO6
